US07202318B2
Synthesis of 2-methyl-3,3,5,5,5-pentafluoro-2,4,4-trihydroxypentyl methacrylate
Under nitrogen atmosphere and at 5° C., 129 ml of 1.6M n-butyllithium in hexane was added to a mixture of 16.8 g of 1,1,1,3,3,3-hexafluoro-2-propanol and 120 g of tetrahydrofuran, which was stirred for one hour at 5° C. Next, 14.2 g of 2-oxopropyl methacrylate was added at 5° C. The mixture was stirred for 10 hours, after which dilute hydrochloric acid was added to stop the reaction and neutralize the reaction mixture. Through conventional aqueous work-up and purification by silica gel column chromatography, 25.3 g of the target compound was obtained (yield 82%).

reactant | n-butyllithium | 1.6M, 129 ml | C(CCC)[Li]
reactant | 1,1,1,3,3,3-hexafluoro-2-propanol | 16.8 g | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | 2-oxopropyl methacrylate | 14.2 g | C(C(=C)C)(=O)OCC(C)=O | C7H10O3
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 120 g | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-methyl-3,3,5,5,5-pentafluoro-2,4,4-trihydroxypentyl methacrylate | 25.3 g, yield 82% | C(C(=C)C)(=O)OCC(C(C(C(F)(F)F)(O)O)(F)F)(O)C | C10H13F5O5
